US08957064B2
Step 4: 2-(5-azetidin-3-yl-2H-[1,2,4]triazol-3-yl)-pyridine hydrochloride salt
3-(5-pyridin-2-yl-1H-[1,2,4]triazol-3-yl)-azetidine-1-carboxylic acid tert-butyl ester (3.13 g, 10.39 mmol) was suspended in a solution of HCl in dioxane (4M, 80 mL) and stirred at rt overnight. The reaction mixture was diluted with diethyl ether, filtered and the residue suspended in acetonitrile and stirred for 45 min at rt. The solid (hydroscopic) was isolated by filtration, partially dissolved in warm methanol and addition of diethyl ether resulted in precipitation of a yellow sticky solid which could not be filtered. The mixture was concentrated in vacuo and dried in a vacuum oven (40° C.) to obtain the desired compound as a light-yellow solid.

reactant | 3-(5-pyridin-2-yl-1H-[1,2,4]triazol-3-yl)-azetidine-1-carboxylic acid tert-butyl ester | 10.39 mmol, 3.13 g | C(C)(C)(C)OC(=O)N1CC(C1)C1=NNC(=N1)C1=NC=CC=C1 | C15H19N5O2
reactant | HCl | Cl | ClH
solvent | dioxane | 4M, 80 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | 2-(5-azetidin-3-yl-2H-[1,2,4]triazol-3-yl)-pyridine hydrochloride salt | Cl.N1CC(C1)C=1N=C(NN1)C1=NC=CC=C1 | InChI=1S/C10H11N5.ClH/c1-2-4-12-8(3-1)10-13-9(14-15-10)7-5-11-6-7;/h1-4,7,11H,5-6H2,(H,13,14,15);1H
